US07241785B2
A mixture of methyl (3-hydroxy-1-methyl-1H-pyrazol-4-yl)acetate (340 mg), 4-(4-chloromethyl-2-methoxyphenoxymethyl)-5-methyl-2-phenyloxazole (687 mg), potassium carbonate (553 mg) and N,N-dimethylformamide (10 ml) was stirred at 60° C. for 5 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl [3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1-methyl-1H-pyrazol-4-yl]acetate (546 mg, yield 57%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (2:1, volume ratio).

reactant | methyl (3-hydroxy-1-methyl-1H-pyrazol-4-yl)acetate | 340 mg | OC1=NN(C=C1CC(=O)OC)C | C7H10N2O3
reactant | 4-(4-chloromethyl-2-methoxyphenoxymethyl)-5-methyl-2-phenyloxazole | 687 mg | ClCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1)OC | C19H18ClNO3
reactant | potassium carbonate | 553 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl [3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1-methyl-1H-pyrazol-4-yl]acetate | 546 mg, yield 57% | COC=1C=C(COC2=NN(C=C2CC(=O)OC)C)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H27N3O6
